US05071999
Thus, for example, 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylicacid can be reacted with 2-methyl-2,7-diazabicyclo[3.3.0]octane to give 8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-7-(2-methyl-2,7-diazabicyclo[3.3.0]oct-7-yl)-4-oxo-3-quinolinecarboxylic acid, which has a high antibacterial activity.

reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylicacid | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)F | C13H8ClF2NO3
reactant | 2-methyl-2,7-diazabicyclo[3.3.0]octane | CN1C2CNCC2CC1 | C7H14N2
product | 8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-7-(2-methyl-2,7-diazabicyclo[3.3.0]oct-7-yl)-4-oxo-3-quinolinecarboxylic acid | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1CC2CCN(C2C1)C | C20H21ClFN3O3
